US04031226
A mixture of 5.5 parts of methyl 1-methyl-1H-pyrrole-2-carboxylate and 2.4 parts of 2-aminoethanol is stirred and refluxed for 2 hours. The reaction mixture is evaporated till dry. Benzene is added twice to the residue and evaporation is continued each time till dry. The residue is purified by column-chromatography over silica gel using a mixture of trichloromethane and methanol (95:5 by volume) as eluent. The pure fractions are collected and the eluent is evaporated. The residue is taken up in petroleumether and upon scratching, the product solidifies. It is filtered off and dried, yielding 1.9 parts of N-(2-hydroxyethyl)-1-methyl-1H-pyrrole-2-carboxamide; mp. 78.1° C.

reactant | methyl 1-methyl-1H-pyrrole-2-carboxylate | CN1C(=CC=C1)C(=O)OC | C7H9NO2
reactant | 2-aminoethanol | NCCO | C2H7NO
product | N-(2-hydroxyethyl)-1-methyl-1H-pyrrole-2-carboxamide | OCCNC(=O)C=1N(C=CC1)C | C8H12N2O2
